US06579577B2
Into the mixture of 0.6 g (13.8 mmol) of NaH and 3 ml of dimethyl formamide (DMF), a solution of 1.8 g (13.8 mmol) of 3,4-difluorophenol dissolved in 20 ml of DMF was added dropwise, and the mixture was stirred for 1 hour. Into this mixture, 3.0 g (9.2 mmol) of 2′-fluoro-4′-propyl-3-fluoro-4-bromomethylbiphenyl was added, and the mixture was heated and refluxed for 4 hours. The reaction mixture was poured into 50 ml of 1N-HCl and extracted by 100 ml of ethyl acetate, and the obtained organic layer was washed twice with a diluted NaHCO3 solution and three times with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatograph (eluent: heptane) to obtain crude (2′-fluoro-4′-propyl-3-fluorobiphenyl-4-yl)methyl 3,4-difluorophenyl ether.

reactant | NaH | 13.8 mmol, 0.6 g | [H-].[Na+]
reactant | 3,4-difluorophenol | 13.8 mmol, 1.8 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 2′-fluoro-4′-propyl-3-fluoro-4-bromomethylbiphenyl | 9.2 mmol, 3.0 g | FC1=C(C=CC(=C1)CCC)C1=CC(=C(C=C1)CBr)F | C16H15BrF2
reactant | HCl | Cl | ClH
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
product | (2′-fluoro-4′-propyl-3-fluorobiphenyl-4-yl)methyl 3,4-difluorophenyl ether | FC=1C=C(C=CC1F)OCC1=C(C=C(C=C1)C1=C(C=C(C=C1)CCC)F)F | C22H18F4O
